US04783453
Diphenyl chlorophosphate (10.9 microliter, 52.6 micromol) was added to a stirred, 0° C. solution of a p-nitrobenzyl 2-oxo-carbapenam-3-carboxylate (15.4 mg, 50.6 micromol), 4-dimethylaminopyridine (1.3 mg, 11 micromol), and diisopropylethylamine (10.4 microliter, 59.7 micromol) in anhydrous acetonitrile (500 microliter). After 5 min., potassium azide (12.6 mg, 155 micromol), and 1, 4, 7, 10, 13, 16-hexaoxacyclooctadecane (13.3 mg, 50.3 micromol) were added. After an additional 5 min. the mixture was washed three times with water, dried over anhydrous magnesium sulfate, filterd, and evaporated under vacuum. The residue was applied to one 20 cm×20 cm 250 micron silica gel preparative thin layer chromatography plate and developed with diethyl ether. Elution with ethyl acetate and evaporation of the eluate under vacuum provided 3.2 mg (19%) p-nitrobenzyl 2-azido-carbapen-2-em-3-carboxylate.

reactant | Diphenyl chlorophosphate | 52.6 micromol, 10.9 microliter | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | p-nitrobenzyl 2-oxo-carbapenam-3-carboxylate | 50.6 micromol, 15.4 mg | O=C1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2)=O | C14H12N2O6
reactant | diisopropylethylamine | 59.7 micromol, 10.4 microliter | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium azide | 155 micromol, 12.6 mg | [N-]=[N+]=[N-].[K+]
catalyst | 4-dimethylaminopyridine | 11 micromol, 1.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 500 microliter | C(C)#N | C2H3N
product | p-nitrobenzyl 2-azido-carbapen-2-em-3-carboxylate | 3.2 mg, 19% | N(=[N+]=[N-])C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2)=O | C14H11N5O5
